US07968563B2
Concentrated hydrochloric acid (0.98 mL) was added dropwise to a stirred suspension of 1-{4-amino-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol (1.45 g, 3.91 mmol) in water (26 mL), and the resulting solution was stirred at room temperature for two hours and then adjusted to pH 11 with the addition of aqueous sodium hydroxide (20% w/w). A precipitate formed, and the suspension was stirred for several minutes. The precipitate was isolated by filtration and washed with water to provide 1.2 g of 4-[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one as a white powder.

reactant | hydrochloric acid | 0.98 mL | Cl | ClH
reactant | 1-{4-amino-2-[2-(2-methyl-1,3-dioxolan-2-yl)ethyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol | 3.91 mmol, 1.45 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(O)C)CCC2(OCCO2)C | C20H26N4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 26 mL | O | H2O
product | 4-[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]butan-2-one | 1.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)O)CCC(C)=O | C18H22N4O2
